US09024027B2
A mixture of crude 2-(5-(N,N-dimethylsulfamoyl)-2,3-dioxoindolin-1-yl)acetic acid (0.178 g, 0.57 mmol), (S)-3,5-dichloro-4-(2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-hydroxyethyl)pyridine 1-oxide (0.200 g, 0.476 mmol), EDC (0.274 g, 1.428 mmol) and DMAP (0.029 g, 0.238 mmol) in dry DCM (10 ml) was stirred at room temperature overnight. The mixture was washed with 1N HCl, aqueous 5% NaHCO3 and brine. The organic layer was dried over sodium sulfate and concentrated under vacuum. The crude was purified by silica gel flash chromatography (DCM:MeOH from 99.5:0.5 to 98:2) to give (S)-3,5-dichloro-4-(2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-(2-(5-(N,N-dimethylsulfamoyl)-2,3-dioxoindolin-1-yl)acetoxy)ethyl)pyridine 1-oxide (0.128 g, 0.179 mmol, 37% yield). This product was further purified by crystallization from ethyl acetate/hexane 1/1 to afford (S)-3,5-dichloro-4-(2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-(2-(5-(N,N-dimethyl sulfamoyl)-2,3-dioxoindolin-1-yl)acetoxy)ethyl)pyridine 1-oxide (0.052 g, 0.179 mmol, 15% yield). MS/ESI+ 714.11 [MH]+; [αD]=−37.09, c=0.488; MeOH; 1H NMR (300 MHz, CHLOROFORM-d) δ ppm 8.15 (s, 2H), 8.06 (d, 1H), 8.00 (dd, 1H), 7.19 (d, 1H), 6.83-7.01 (m, 2H), 6.74 (d, 1H), 6.67 (t, 1H), 6.13 (dd, 1H), 4.53 (d, 2H), 3.91 (d, 2H), 3.58 (dd, 1H), 3.28 (dd, 1H), 2.79 (s, 6H), 1.09-1.43 (m, 1H), 0.55-0.84 (m, 2H), 0.18-0.52 (m, 2H)

reactant | 2-(5-(N,N-dimethylsulfamoyl)-2,3-dioxoindolin-1-yl)acetic acid | 0.57 mmol, 0.178 g | CN(S(=O)(=O)C=1C=C2C(C(N(C2=CC1)CC(=O)O)=O)=O)C | C12H12N2O6S
reactant | (S)-3,5-dichloro-4-(2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-hydroxyethyl)pyridine 1-oxide | 0.476 mmol, 0.200 g | ClC=1C=[N+](C=C(C1C[C@H](O)C1=CC(=C(C=C1)OC(F)F)OCC1CC1)Cl)[O-] | C18H17Cl2F2NO4
reactant | EDC | 1.428 mmol, 0.274 g
catalyst | DMAP | 0.238 mmol, 0.029 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
product | (S)-3,5-dichloro-4-(2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-(2-(5-(N,N-dimethylsulfamoyl)-2,3-dioxoindolin-1-yl)acetoxy)ethyl)pyridine 1-oxide | 0.179 mmol, 0.128 g, 37% yield | ClC=1C=[N+](C=C(C1C[C@H](OC(CN1C(C(C2=CC(=CC=C12)S(N(C)C)(=O)=O)=O)=O)=O)C1=CC(=C(C=C1)OC(F)F)OCC1CC1)Cl)[O-] | C30H27Cl2F2N3O9S
